US07820823B2
(1,4-Dibenzyl-piperazin-2-ylmethylen)-ethyl-amine
To a solution of 0.5 g (1,4-bis(phenylmethyl)-2-piperazin-carboxaldehyd in 5 ml of dichloromethane was added 0.54 ml ethylamine and 0.5 g molecular sieves. The reaction mixture was stirred for 30 min at rt then filtered. The filtrate was evaporated to dryness.

reactant | 1,4-bis(phenylmethyl)-2-piperazin-carboxaldehyd | C1(=CC=CC=C1)CN1C(CN(CC1)CC1=CC=CC=C1)C=O | C19H22N2O
reactant | ethylamine | 0.54 ml | C(C)N | C2H7N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (1,4-Dibenzyl-piperazin-2-ylmethylen)-ethyl-amine | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)C=NCC | C21H27N3
